US07476685B2
Sodium hydride (0.090 g, 60% dispersion in mineral oil) was added to a solution of 4-trifluoromethyl-3-pyridinecarboxamide (0.40 g) in N,N-dimethylformamide at 20° C., and stirred for 1 hour. Benzyl isocyanate (0.31 ml) was added and the mixture stirred at 20° C. for 2 hours, then methyl bromoacetate (0.30 ml) added and stirring continued for 5 hours. Ethyl acetate and water were added to the solution and the organic phase dried (magnesium sulfate), evaporated and the residue purified by column chromatography on silica gel, eluting with n-hexane/ethyl acetate (2:1), to give 3-benzyl-1-(4-trifluoromethyl-3-pyridylcarbonyl)hydantoin (0.50 g, Compound S-132).

reactant | Sodium hydride | 0.090 g | [H-].[Na+]
reactant | 4-trifluoromethyl-3-pyridinecarboxamide | 0.40 g | FC(C1=C(C=NC=C1)C(=O)N)(F)F | C7H5F3N2O
reactant | Benzyl isocyanate | 0.31 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | methyl bromoacetate | 0.30 ml | BrCC(=O)OC | C3H5BrO2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-benzyl-1-(4-trifluoromethyl-3-pyridylcarbonyl)hydantoin | 0.50 g | C(C1=CC=CC=C1)N1C(N(CC1=O)C(=O)C=1C=NC=CC1C(F)(F)F)=O | C17H12F3N3O3
